US05280048
82 g of 3,7,11,15,19,23,27-heptamethyl-2,6,10,14, 18,22,26-octacosaheptaenoic acid was dissolved in 1 l of n-amyl alcohol and 74 g of metallic sodium was added portionwise while the solution was vigorously stirred. After metallic sodium was completely dissolved, the reaction solution was poured into iced water and was made acidic by adding 300 ml of 6N hydrochloric acid. It was then extracted with 1 l of n-hexane, washed with water, dried and concentrated. 78 g of colorless, oily 3,7,11,15,19,23,27-heptamethyl-6,10,14,18,22, 26-octacosahexaenoic acid was obtained as the crude product. The product was then added dropwise to 500 ml of an ethereal suspension of 10 g of lithium aluminum hydride while being cooled by ice and stirred. After stirring was continued for 30 minutes, 10 ml of water with 10 ml of a 15% caustic soda solution, and 30 ml of water were sequentially added. The precipitated crystal was filtered and washed twice with 200 ml of ether. The filtrate was concentrated and the concentrate was defined by silica gel column chromatography, providing the captioned 3,7,11,15,19,23,27-heptamethyl-6,10,14,18, 22,26-octacosahexaenol as a colorless oily matter.

reactant | 3,7,11,15,19,23,27-heptamethyl-2,6,10,14, 18,22,26-octacosaheptaenoic acid | 82 g | CC(=CC(=O)O)CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(C)C)C)C)C)C)C | C35H56O2
reactant | sodium | 74 g | [Na] | Na
reactant | water | O | H2O
reactant | hydrochloric acid | 6N, 300 ml | Cl | ClH
solvent | n-amyl alcohol | 1 l | CCCCCO | C5H12O
product | 3,7,11,15,19,23,27-heptamethyl-6,10,14,18,22, 26-octacosahexaenoic acid | CC(CC(=O)O)CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(C)C)C)C)C)C)C | C35H58O2
